US07153851B2
Process (B): (3R,4R)-3-Azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine (1.79 g) was dissolved in toluene (56 mL). While this solution was cooled on an ice bath, 1,8-diazabicyclo[5.4.0]undec-7-ene (2.03 mL) was added. This was followed by dropwise addition of perfluoro-1-octanesulfonyl fluoride (2.80 mL) and stirring for another 1 hour. Insoluble materials were removed from the reaction mixture by filtration and were washed with toluene. The filtrate and the washing solution were combined and the combined organic layer was concentrated under reduced pressure. The resulting residue was then purified on a silica gel column (eluant=hexane:ethyl acetate=2:1) to give 1.58 g of (3R,4S)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine as a pale brown syrup-like product. The compound was identical to the compound obtained by Process (A).

reactant | (3R,4R)-3-Azidomethyl-1-benzyloxycarbonyl-4-hydroxypyrrolidine | 1.79 g | N(=[N+]=[N-])C[C@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C13H16N4O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.03 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | perfluoro-1-octanesulfonyl fluoride | 2.80 mL | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
solvent | toluene | 56 mL | C1(=CC=CC=C1)C | C7H8
product | (3R,4S)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 1.58 g | N(=[N+]=[N-])C[C@H]1CN(C[C@H]1F)C(=O)OCC1=CC=CC=C1 | C13H15FN4O2
